US07199239B2
Intermediate 32: Ethyl [4-({butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate
To a solution of N-butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (102 mg, 0.33 mmol) in anhydrous MeCN (8 mL) under nitrogen at room temperature was added ethyl [4-(bromomethyl)-2-methylphenoxy]acetate (95.3 mg, 0.33 mmol) and N,N-diisopropyethylamine (57.8 μL, 0.33 mmol). The resultant solution was heated to reflux and stirred for 3 h. The reaction mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The residue was partitioned between CHCl3 (2×10 mL) and water (10 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by Biotage™ chromatography (40 g Silica column) eluted with 1:99–1:49 EtOAc:cyclohexane afforded the title compound as a colourless oil (110 mg).

reactant | N-butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.33 mmol, 102 mg | C(CCC)NC=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3N
reactant | ethyl [4-(bromomethyl)-2-methylphenoxy]acetate | 0.33 mmol, 95.3 mg | BrCC1=CC(=C(OCC(=O)OCC)C=C1)C | C12H15BrO3
reactant | N,N-diisopropyethylamine | 0.33 mmol, 57.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeCN | 8 mL | CC#N | C2H3N
product | Ethyl [4-({butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 110 mg | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C30H34F3NO3
